US06262045B1
1.3. Methyl 5-ethyl-8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate
18.4 ml (187.2 mmol) of phenylhydrazine are added, at room temperature, to a solution of 14 g (43.6 mmol) of methyl 2-(ethoxycarbonyl)-1-ethyl-5-fluoro-α-oxo-1H-indole-3-acetate in 150 ml of acetic acid and the reaction mixture is stirred for 30 min at room temperature and then for 2 h at reflux. The mixture is cooled, 100 ml of water are added and an insoluble material is separated by filtration, the insoluble material being washed on sintered glass with a 70/30 mixture of water and acetone. 10.5 g (28.6 mmol) of white solid are thus isolated, which solid is used as is in the following stage.

reactant | phenylhydrazine | 187.2 mmol, 18.4 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | methyl 2-(ethoxycarbonyl)-1-ethyl-5-fluoro-α-oxo-1H-indole-3-acetate | 43.6 mmol, 14 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1C(C(=O)OC)=O)F)CC | C16H16FNO5
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | Methyl 5-ethyl-8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate | 28.6 mmol, 10.5 g | C(C)N1C2=C(C=3C=C(C=CC13)F)C(=NN(C2=O)C2=CC=CC=C2)C(=O)OC | C20H16FN3O3
